US06077962
Phosphorous trichloride (3.7 ml, 43 mmol) was added, dropwise, to a 10° C. slurry of N-neohexyl-L-aspartic acid (11.6 g, 53.4 mmol) in glacial acetic acid (50 ml). After addition was complete (0.5 hr), the resulting clear solution was stirred at room temperature overnight. The resulting solid precipitate was collected by vacuum filtration, washed with acetic acid and methylene chloride, then dried at 35-40° C. for 3 hours to give 3.62 g (69.8%) of pure N-neohexyl-L-aspartic anhydride.

reactant | Phosphorous trichloride | 43 mmol, 3.7 ml | P(Cl)(Cl)Cl | Cl3P
reactant | N-neohexyl-L-aspartic acid | 53.4 mmol, 11.6 g | C(CC(C)(C)C)N[C@@H](CC(=O)O)C(=O)O | C10H19NO4
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | N-neohexyl-L-aspartic anhydride | 3.62 g, 69.8% | C(CC(C)(C)C)N[C@H]1CC(=O)OC1=O | C10H17NO3
